US20010018525A1
Step 2 3,5-Bis-(3-formylphenyl)-4-methoxymethoxybenzoic acid
To a solution of 3,5-bis-(3-formylphenyl)-4-methoxymethoxybenzoic acid ethyl ester (960 mg, 2.12 mmol) in 3 ni]L MeOH was added 3 mL H120 and solid KOH (179 mg, 3.18 mmol). The reaction was refluxed for 5 to 6 hours then the cooled reaction mixture was diluted with 2N HCl and water. The aqueous solution was extracted with EtOAc (3×) and the combined organic layers were dried over Na2SO4. The solvent was removed in vacuo to give an oil that was flash chromatographed (10% MeOH:90% EtOAc) on silica gel. There yielded 650 mg of the desired acid along with some of the methyl ester of the desired acid. The methyl ester was resubjected to reaction conditions to give more of the desired acid for a total yield of 690 mg, 76.6%. 1H NMR (CDCl3) δ2.63 (s, 3H); 4.19 (s, 2H); 7.65 (t, J=7.36 Hz, 2H); 7.87-7.95 (m, 4H); 8.06-8.26 (m, 4H); 10.10 (s, 2H).

reactant | 3,5-bis-(3-formylphenyl)-4-methoxymethoxybenzoic acid ethyl ester | 2.12 mmol, 960 mg | C(C)OC(C1=CC(=C(C(=C1)C1=CC(=CC=C1)C=O)OCOC)C1=CC(=CC=C1)C=O)=O | C25H22O6
reactant | MeOH | CO | CH4O
reactant | KOH | 3.18 mmol, 179 mg | [OH-].[K+]
solvent | HCl | 2N | Cl | ClH
solvent | water | O | H2O
product | 3,5-Bis-(3-formylphenyl)-4-methoxymethoxybenzoic acid | 650 mg | C(=O)C=1C=C(C=CC1)C=1C=C(C(=O)O)C=C(C1OCOC)C1=CC(=CC=C1)C=O | C23H18O6
